data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(C)OB(C2=CC=C(NC3=NC4=CC=CC=C4O3)C(F)=C2)OC1(C)C.CN1CCN(C2CCC(N3C=C(I)C4=C3N=CN=C4N)CC2)CC1.COCCOC.O.O.O=C([O-])[O-].[Na+].[Na+].[Pd:2]|(1, 2)",11,6,reaction_3,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(C)OB(C2=CC=C(NC3=NC4=CC=CC=C4O3)C(F)=C2)OC1(C)C.CN1CCN(C2CCC(N3C=C(I)C4=C(N)N=CN=C43)CC2)CC1.COCCOC.O.O.O=C([O-])[O-].[Na+].[Na+]|(1, 2)",11,5,reaction_3,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(C)OB(C2=CC=C(NC3=NC4=CC=CC=C4O3)C(F)=C2)OC1(C)C.CN1CCN(C2CCC(N3C=[C:2]([I:1])C4=C(N)N=CN=C43)CC2)CC1.COCCOC.O.O.O=C([O-])[O-].[Na+].[Na+]|(3, 2);((2, 1), 3)",11,4,reaction_3,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(C)OB(C2=CC=C(NC3=NC4=CC=CC=C4O3)C(F)=C2)OC1(C)C.CN1CCN(C2CCC(N3C=[C]([Pd-2:3]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[I:4])C4=C(N)N=CN=C43)CC2)CC1.COCCOC.O.O.O=C([O-])[O-:1].[Na+:2].[Na+]|(1, 3);((3, 4), 2)",11,3,reaction_3,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(C)O[B:1]([C:2]2=CC=C(NC3=NC4=CC=CC=C4O3)C(F)=C2)OC1(C)C.CN1CCN(C2CCC(N3C=[C]([Pd-2:3]([O]C(=O)[O-])([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)C4=C(N)N=CN=C43)CC2)CC1.COCCOC.O.O.[Na+].[Na][I]|(3, 2);((2, 1), 3)",11,2,reaction_3,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN1CCN(C2CCC(N3C=[C]([Pd-2:2]([C]4=CC=C(NC5=NC6=CC=CC=C6O5)C(F)=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([B:1]4OC(C)(C)C(C)(C)O4)[O:3]C(=O)[O-])C4=C(N)N=CN=C43)CC2)CC1.COCCOC.O.O.[Na+].[Na][I]|((2, 3), 1);((1, 2), 2)",11,1,reaction_3,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(C)OB(OC(=O)[O-])OC1(C)C.CN1CCN(C2CCC(N3C=[C:3]([Pd-2:1]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[C:2]4=CC=C(NC5=NC6=CC=CC=C6O5)C(F)=C4)C4=C(N)N=CN=C43)CC2)CC1.COCCOC.O.O.[Na+].[Na][I]|((1, 2), 3);((3, 1), 1)",11,0,reaction_3,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.O=C(NS(=O)(=O)C1=CC=C(I)C=C1)C1=CC=C(Cl)C=C1Cl.O=C([O-])[O-].OB(O)C1=CSC=C1.[Na+].[Na+].[Pd:1]|(2, 1)",32,6,reaction_28,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.O=C(NS(=O)(=O)C1=CC=C(I)C=C1)C1=CC=C(Cl)C=C1Cl.O=C([O-])[O-].OB(O)C1=CSC=C1.[Na+].[Na+]|(1, 2)",32,5,reaction_28,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.O=C(NS(=O)(=O)C1=CC=[C:1]([I:2])C=C1)C1=CC=C(Cl)C=C1Cl.O=C([O-])[O-].OB(O)C1=CSC=C1.[Na+].[Na+]|(3, 1);((1, 2), 3)",32,4,reaction_28,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.O=C(NS(=O)(=O)C1=CC=[C]([Pd-2:3]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[I:4])C=C1)C1=CC=C(Cl)C=C1Cl.O=C([O-])[O-:1].OB(O)C1=CSC=C1.[Na+:2].[Na+]|(1, 3);((3, 4), 2)",32,3,reaction_28,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.O=C([O-])[O][Pd-2:3]([C]1=CC=C(S(=O)(=O)NC(=O)C2=CC=C(Cl)C=C2Cl)C=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[B:1](O)[C:2]1=CSC=C1.[Na+].[Na][I]|(3, 2);((2, 1), 3)",32,2,reaction_28,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.O=C(NS(=O)(=O)C1=CC=[C]([Pd-2:2]([C]2=CSC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([O:1]C(=O)[O-])[B:3](O)O)C=C1)C1=CC=C(Cl)C=C1Cl.[Na+].[Na][I]|((2, 1), 3);((3, 2), 2)",32,1,reaction_28,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.O=C(NS(=O)(=O)C1=CC=[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=CSC=C2)C=C1)C1=CC=C(Cl)C=C1Cl.O=C([O-])OB(O)O.[Na+].[Na][I]|((2, 1), 3);((3, 2), 2)",32,0,reaction_28,USPTO_suzuki,train
